US06350749B1
A mixture of 1-[2-(4-methylphenylsulfonyl)hydrazino]-5-(thiophen-3-yl)cyclohexen-3-one (3.62 g), anhydrous potassium carbonate (3.45 g), chloroacetone (1.15 g), sodium iodide (1 g), ethanol (50 ml) and 1,2-dimethoxyethane (20 ml) was stirred at 80° C. for 1 hour. Under reduced pressure, the solvent was evaporated, and the residue was extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified with silica gel column chromatography. The resulting crystals were recrystallized from ethyl acetate-hexane to give 4-methyl-7-(thiophen-3-yl)-5,6,7,8-tetrahydrocinnolin-5-one (0.8 g) as yellow crystals.

reactant | 1-[2-(4-methylphenylsulfonyl)hydrazino]-5-(thiophen-3-yl)cyclohexen-3-one | 3.62 g | CC1=CC=C(C=C1)S(=O)(=O)NNC1=CC(CC(C1)C1=CSC=C1)=O | C17H18N2O3S2
reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 1.15 g | ClCC(C)=O | C3H5ClO
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-methyl-7-(thiophen-3-yl)-5,6,7,8-tetrahydrocinnolin-5-one | 0.8 g | CC1=CN=NC=2CC(CC(C12)=O)C1=CSC=C1 | C13H12N2OS
